US07745450B2
7-[1 (R,S)-(hydroxymethyl)propyl]amino-5-[1(R,S)-(hydroxymethyl)propyl]amino-3-isopropyl-pyrazolo[4,3-d]pyrimidine (XVIIb)
The mixture of 5,7-dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine (100 mg; 0.331 mmol) and 2 mL 1-(R,S)-(hydroxymethyl)propylamine was heated at 120° C. for 6 hours. The reaction mixture was evaporated to dryness in vacuo. The product was purified by column chromatography on silica gel. The mixture of chloroform/methanol (96/4) was used as a mobile phase. Yield=80%; white syrupy; MS (ES+): 337.4 (100%, M+H+). 1H-NMR (300 MHz, CDCl3): 0.90-1.03 m (6H), 1.26 d (6H), 1.50-1.71 m (4H), 2.48 bs (1H), 3.07 m (1H), 3.40 m (1H), 3.59-3.90 m (4H).

reactant | 5,7-dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine | 0.331 mmol, 100 mg | ClC=1N=C(C2=C(N1)C(=NN2)C(C)C)Cl | C8H8Cl2N4
reactant | 1-(R,S)-(hydroxymethyl)propylamine | 2 mL | OCC(CC)N | C4H11NO
product | 7-[1 (R,S)-(hydroxymethyl)propyl]amino-5-[1(R,S)-(hydroxymethyl)propyl]amino-3-isopropyl-pyrazolo[4,3-d]pyrimidine | Yield=80% | OCC(CC)NC=1C2=C(N=C(N1)NC(CC)CO)C(=NN2)C(C)C | C16H28N6O2
